US05021481
2-[N-(1-alpha-Methylbenzyloxy-2,2,6,6-tetramethyl-piperidin-4-yl)-N-n-butylamino] -5,5-dimethyl-1,3,2-dioxaphosphorinane
The title compound is prepared as a colorless glass from 4-n-butylamino-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine and 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane according to the procedure of Example 11C.

reactant | 4-n-butylamino-1-alpha-methylbenzyloxy-2,2,6,6-tetramethylpiperidine | C(CCC)NC1CC(N(C(C1)(C)C)OC(C1=CC=CC=C1)C)(C)C | C21H36N2O
reactant | 2-chloro-5,5-dimethyl-1,3,2-dioxaphosphorinane | ClP1OCC(CO1)(C)C | C5H10ClO2P
product | 2-[N-(1-alpha-Methylbenzyloxy-2,2,6,6-tetramethyl-piperidin-4-yl)-N-n-butylamino] -5,5-dimethyl-1,3,2-dioxaphosphorinane | CC(C1=CC=CC=C1)ON1C(CC(CC1(C)C)N(CCCC)P1OCC(CO1)(C)C)(C)C | C26H45N2O3P
